US06177423B1
6-Bromo-2-hydroxy-benzo[de]isoquinoline-1,3-dione
4-Bromo-1,8-naphthalic anhydride (1.6 g, 5.8 mmol) and hydroxylamine hydrochloride (0.8 g, 11.5 mmol) were reacted in pyridine (30 mL) following the procedure of Example 1 to give 1.4 g of the title compound , mp 248-251° C.;

reactant | 4-Bromo-1,8-naphthalic anhydride | 5.8 mmol, 1.6 g | C1=CC2=C(C=CC3=C2C(=C1)C(=O)OC3=O)Br | C12H5BrO3
reactant | hydroxylamine hydrochloride | 11.5 mmol, 0.8 g | Cl.NO
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | 6-Bromo-2-hydroxy-benzo[de]isoquinoline-1,3-dione | 1.4 g | BrC=1C=CC=2C(N(C(C3=CC=CC1C23)=O)O)=O | C12H6BrNO3
